US06906072B1
Reference Example 18 1-benzyl-4-methanesulfonyloxypropylpiperidine
2.58 g (11.1 mmol) of 1-benzyl-4-hydroxypropylpiperidine and 3.26 ml (23.4 mmol) of triethylamine were dissolved in 50 ml of tetrahydrofuran, and 1.67 ml (21.6 mmol) of methanesulfonyl chloride wasaddeddropwise. After completion of the reaction, the mixture was partitioned between ethyl acetate and brine. The organic layer was dried over magnesium sulfate, and then evaporated, to give a crude product. The crude product was subjected to 50 g of Cromatorex NH silica gel (ethyl acetate:hexane=1:1), to give 2.90 g (9.31 mmol, 83.9%) the title compound as a yellow oil. The physico-chemical data of the target compound was as indicated below.

reactant | 1-benzyl-4-hydroxypropylpiperidine | 11.1 mmol, 2.58 g | C(C1=CC=CC=C1)N1CCC(CC1)CCCO | C15H23NO
reactant | triethylamine | 23.4 mmol, 3.26 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 21.6 mmol, 1.67 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-benzyl-4-methanesulfonyloxypropylpiperidine | 9.31 mmol, 2.90 g, 83.9% | C(C1=CC=CC=C1)N1CCC(CC1)CCCOS(=O)(=O)C | C16H25NO3S
